US05137911
A mixture of 45 g of 1-ethyl-3,4-dihydro-6,7-dimethoxy-N-methyl-1H-2-benzopyran-1-ethanamine, 50 g of [1-(2-chloroethyl)]-bis-(4-fluorophenyl)methane, and 24.5 g of potassium carbonate in 500 ml of dimethylformamide was heated at 120°-140° C. for 2 h. The mixture was hydrolyzed with 1 l of water, extracted twice with 300 ml of diethylether and the organic phase was washed with water, dried and evaporated. The crude base was converted into the (±)-tartrate with (±)-tartaric acid in ethylacetate to give 60 g (55%) of 1-ethyl-N-[2-[bis(4-fluorophenyl)methoxy]ethyl]-3,4-dihydro-6,7-dimethoxyN-methyl-1H-2-benzopyran-1-ethanamine (±)-2,3-dihydroxybutanedioate (1:1) salt. m.p. 118.5° C.

reactant | 1-ethyl-3,4-dihydro-6,7-dimethoxy-N-methyl-1H-2-benzopyran-1-ethanamine | 45 g | C(C)C1(OCCC2=C1C=C(C(=C2)OC)OC)CCNC | C16H25NO3
reactant | [1-(2-chloroethyl)]-bis-(4-fluorophenyl)methane | 50 g | ClCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C15H13ClF2
reactant | potassium carbonate | 24.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 l | O | H2O
reactant | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 1-ethyl-N-[2-[bis(4-fluorophenyl)methoxy]ethyl]-3,4-dihydro-6,7-dimethoxyN-methyl-1H-2-benzopyran-1-ethanamine (±)-2,3-dihydroxybutanedioate | 60 g, 55% | OC(C(=O)O)C(C(=O)O)O.C(C)C1(OCCC2=C1C=C(C(=C2)OC)OC)CCN(C)CCOC(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F | InChI=1S/C31H37F2NO4.C4H6O6/c1-5-31(27-21-29(36-4)28(35-3)20-24(27)14-18-38-31)15-16-34(2)17-19-37-30(22-6-10-25(32)11-7-22)23-8-12-26(33)13-9-23;5-1(3(7)8)2(6)4(9)10/h6-13,20-21,30H,5,14-19H2,1-4H3;1-2,5-6H,(H,7,8)(H,9,10)
